US04170465
84 g of diketene were added over 10 minutes at 10° C. to a mixture of 85 g of cyclopentylamine and 500 ml of tetrahydrofuran and after stirring the mixture for 6 hours at 20° C., the mixture was evaporated to dryness under reduced pressure. The residue was added to isopropyl ether and was cooled and vacuum filtered to obtain 107 g of N-cyclopentyl-acetylacetamide melting at 52° C. 56 g of the latter product and 1.6 g of p-toluene sulfonic acid were added to a mixture of 40 g of methyl orthoformate and 80 ml of methanol and the mixture was held at 50° C. for 8 hours and 72 hours at 25° C. 4 ml of quinoline were added and the mixture was evaporated to dryness under reduced pressure. The residue was added to toluene and the mixture was heated at 145° C. for 4 hours while distilling a toluene-methanol azeotrope. The mixture was evaporated to dryness under reduced pressure and the residue was chromatographed over silica gel. The product was eluted with an 8-2 methylene chloride-acetone mixture and was crystallized from isopropyl ether to obtain 40 g of N-cyclopentyl-3-methoxy-crotonamide melting at 94° C. The RMN spectra showed the product to be the E isomer.

reactant | p-toluene sulfonic acid | 1.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | methyl orthoformate | 40 g | C(OC)([O-])[O-]
reactant | quinoline | 4 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | methanol | 80 ml | CO | CH4O
product | N-cyclopentyl-3-methoxy-crotonamide | 40 g | C1(CCCC1)NC(\C=C(\C)/OC)=O | C10H17NO2
